US07700599B2
1,1-Dimethylethyl (2S)-2-methyl-4-[(4-nitrophenyl)methyl]-1-piperazinecarboxylate (D1)
A mixture of 4-nitrobenzaldehyde (30.22 g, 0.2 mol), 1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate (40.06 g, 0.2 mol) and sodium tri(acetoxy)borohydride (85 g, 0.4 mol) in 1,2-DCE (1 L) was stirred at room temperature over-weekend. The reaction mixture was treated portion-wise with NaHCO3 solution (400 mL) over a period of ˜2 h. After a further 30 mins, the organic layer was separated, washed with brine, dried and concentrated to give a viscous pale yellow oil. Purification by column chromatography eluting with 0%, 10% and then 20% EtOAc/hexane yielded the title compound as a yellow crystalline solid (61.1 g).

reactant | 4-nitrobenzaldehyde | 0.2 mol, 30.22 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate | 0.2 mol, 40.06 g | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | sodium tri(acetoxy)borohydride | 0.4 mol, 85 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 400 mL | C(=O)(O)[O-].[Na+]
solvent | 1,2-DCE | 1 L | ClCCCl | C2H4Cl2
product | 1,1-Dimethylethyl (2S)-2-methyl-4-[(4-nitrophenyl)methyl]-1-piperazinecarboxylate | 61.1 g | C[C@@H]1N(CCN(C1)CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C | C17H25N3O4
